US07368578B2
A mixture of ethyl (2E)-3-(4-chloromethyl-5-ethyl-1,3-oxazol-2-yl)-2-propenoate (11.62 g), vanillin (7.70 g), potassium carbonate (6.99 g) and N,N-dimethylformamide (200 mL) was stirred at room temperature for 15 hr. Water was poured into the reaction mixture, and the mixture was extracted with ethyl acetate. The organic layer was washed with saturated brine, dried over anhydrous magnesium sulfate and concentrated to give crystals of ethyl (2E)-3-{4[(4-formyl-2-methoxyphenoxy)methyl]-5-methyl-1,3-oxazol-2-yl}-2-propenoate (12.15 g, yield 70%). Recrystallization from hexane-ethyl acetate gave colorless prism crystals. melting point: 117-118° C.

reactant | ethyl (2E)-3-(4-chloromethyl-5-ethyl-1,3-oxazol-2-yl)-2-propenoate | 11.62 g | ClCC=1N=C(OC1CC)/C=C/C(=O)OCC | C11H14ClNO3
reactant | vanillin | 7.70 g | O=CC1=CC(OC)=C(O)C=C1 | C8H8O3
reactant | potassium carbonate | 6.99 g | C([O-])([O-])=O.[K+].[K+]
reactant | N,N-dimethylformamide | 200 mL | CN(C=O)C | C3H7NO
solvent | Water | O | H2O
product | ethyl (2E)-3-{4[(4-formyl-2-methoxyphenoxy)methyl]-5-methyl-1,3-oxazol-2-yl}-2-propenoate | 12.15 g, yield 70% | C(=O)C1=CC(=C(OCC=2N=C(OC2C)/C=C/C(=O)OCC)C=C1)OC | C18H19NO6
